US07615568B2
A. Methyl 2-(1-t-Butoxycarbonylpiperidin-4-yloxy)-4-(ethylthio)benzoate
Using a method similar to Example 1-D, methyl 2-hydroxy-4-(ethylthio)benzoate and 1-Boc-4-hydroxy-piperidine gave the title compound (5.0 g, 12.64 mmol 46%).

reactant | methyl 2-hydroxy-4-(ethylthio)benzoate | OC1=C(C(=O)OC)C=CC(=C1)SCC | C10H12O3S
reactant | 1-Boc-4-hydroxy-piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
product | Methyl 2-(1-t-Butoxycarbonylpiperidin-4-yloxy)-4-(ethylthio)benzoate | 12.64 mmol, 5.0 g, 46% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)SCC | C20H29NO5S
